US04062859
EXAMPLE 13 -- Preparation of 2-octyl-4,5-dichloro-3-isothiazolidinone 1,1-dioxide
To a solution of 2.84g. (0.01 mole) of 2-octyl-4,5-dichloro-3-isothiazolidinone 1-oxide in 20 ml. of chloroform at 0° C. is added a solution of 5.4g. (0.025 mole) of 81% pure m-chloroperbenzoic acid in 100 ml. of chloroform. The mixture is stirred for three days at 50° C. The reaction mixture is filtered and the filtrate is washed with a dilute sodium bicarbonate solution. The chloroform layer is dried over magnesium sulfate and evaporated to give the crude product.

reactant | 2-octyl-4,5-dichloro-3-isothiazolidinone 1-oxide | 0.01 mole | C(CCCCCCC)N1S(C(C(C1=O)Cl)Cl)=O | C11H19Cl2NO2S
reactant | m-chloroperbenzoic acid | 0.025 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-octyl-4,5-dichloro-3-isothiazolidinone 1,1-dioxide | C(CCCCCCC)N1S(C(C(C1=O)Cl)Cl)(=O)=O | C11H19Cl2NO3S
